US07241760B2
2-Chloro-5-[2-methyl-4-(3-trifluoromethyl-phenylethynyl)-imidazol-1-yl]-pyridine
The title compound, MS: m/e=362.3 (M+), was prepared in accordance with the general method of example 1 from 2-methyl-4-(3-trifluoromethyl-phenylethynyl)-1H-imidazole and 2-chloro-5-fluoro-pyridine.

reactant | 2-methyl-4-(3-trifluoromethyl-phenylethynyl)-1H-imidazole | CC=1NC=C(N1)C#CC1=CC(=CC=C1)C(F)(F)F | C13H9F3N2
reactant | 2-chloro-5-fluoro-pyridine | ClC1=NC=C(C=C1)F | C5H3ClFN
product | 2-Chloro-5-[2-methyl-4-(3-trifluoromethyl-phenylethynyl)-imidazol-1-yl]-pyridine | ClC1=NC=C(C=C1)N1C(=NC(=C1)C#CC1=CC(=CC=C1)C(F)(F)F)C | C18H11ClF3N3
